US09238640B2
To a solution of 2-[4-(3-hydroxy-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (1.00 g, 2.70 mmol) in anhydrous N,N-dimethylformamide (15 mL) were added triphenylphosphine (0.78 g, 3.00 mmol) and carbon tetrabromide (1.00 g, 3.00 mmol). The reaction mixture was stirred at room temperature for 16 hours. DMF was removed under reduced pressure. The residue was purified by column chromatography (silica gel 230-400 mesh; 3% methanol in dichloromethane as eluent) to give 2-[4-(3-bromo-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one as an off-white solid. Yield: 0.60 g (51%).

reactant | 2-[4-(3-hydroxy-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 2.70 mmol, 1.00 g | OCCCC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C21H24N2O4
reactant | triphenylphosphine | 3.00 mmol, 0.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 3.00 mmol, 1.00 g | C(Br)(Br)(Br)Br | CBr4
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-[4-(3-bromo-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | BrCCCC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C21H23BrN2O3
